US05391541
By the method of Example 1, Step H, 8.95 grams (0.024 mole) of 3-(2,5-dichloro-3-methoxyphenylmethyl)-6-trifluoromethyluracil, 5.03 grams (0.036 mole) of dimethyl sulfate, and 8.99 grams (0.048 mole) of potassium carbonate were reacted in 800 mL of acetone, yielding 6.0 grams of 3-(2,5-dichloro-3-methoxyphenylmethyl)- 1 -methyl-6-trifluoromethyluracil as a viscous, yellow oil, which became a glass upon cooling. This glass crystallized after standing for a period of time, m.p. 117°-123° C. The NMR spectrum was consistent with the proposed structure.

reactant | 3-(2,5-dichloro-3-methoxyphenylmethyl)-6-trifluoromethyluracil | 0.024 mole, 8.95 grams | ClC1=C(C=C(C=C1OC)Cl)CN1C(NC(=CC1=O)C(F)(F)F)=O | C13H9Cl2F3N2O3
reactant | dimethyl sulfate | 0.036 mole, 5.03 grams | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium carbonate | 0.048 mole, 8.99 grams | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 800 mL | CC(=O)C | C3H6O
product | 3-(2,5-dichloro-3-methoxyphenylmethyl)- 1 -methyl-6-trifluoromethyluracil | 6.0 grams | ClC1=C(C=C(C=C1OC)Cl)CN1C(N(C(=CC1=O)C(F)(F)F)C)=O | C14H11Cl2F3N2O3
